US07939526B2
Trimethyl orthoacetate (1 g, 8.1 mmol) was added to a mixture of N4-{2-[2-(methylsulfonyl)ethoxy]ethyl}quinoline-3,4-diamine (˜2.3 g, ˜7.4 mmol) and toluene (45 mL). Pyridine hydrochloride (0.25 g) was added and the reaction mixture was heated to reflux with the volatiles being collected in a Dean Stark trap. Pyridine was added to help solubilize the starting material. After 2 hours the reaction mixture was concentrated under reduced pressure to provide a dark oil. This material was purified by column chromatography (silica gel eluting sequentially with 95/5 dichloromethane/methanol and 9/1 dichloromethane/methanol) to provide 1.75 g of 2-methyl-1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-1H-imidazo[4,5-c]quinoline as a white foam.

reactant | Trimethyl orthoacetate | 8.1 mmol, 1 g | C(C)(OC)(OC)OC | C5H12O3
reactant | N4-{2-[2-(methylsulfonyl)ethoxy]ethyl}quinoline-3,4-diamine | ˜7.4 mmol, ˜2.3 g | CS(=O)(=O)CCOCCNC1=C(C=NC2=CC=CC=C12)N | C14H19N3O3S
reactant | Pyridine hydrochloride | 0.25 g | Cl.N1=CC=CC=C1
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-1H-imidazo[4,5-c]quinoline | 1.75 g | CC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCS(=O)(=O)C | C16H19N3O3S
